US05798364
A mixture of 800 mg of 2-butyl-3-(2'-cyano-biphenyl-4-ylmethyl)-4,5-dihydro-4-oxo-3H-imidazo[4,5-c]-pyridine, 515 mg of trimethyltin azide and 20 ml of toluene is boiled for 96 hours and evaporated. Chromatography of the residue (silica gel; methylene chloride/-methanol 9:1, then 85:15 and 80:20) yields 2-butyl-4,5-dihydro-4-oxo-3-[2'-(tetrazol-5-yl)biphenyl-4-ylmethyl]-3H-imidazo[4,5-c]pyridine , m.p.167°. The corresponding K salt is prepared therefrom in conventional manner.

reactant | 2-butyl-3-(2'-cyano-biphenyl-4-ylmethyl)-4,5-dihydro-4-oxo-3H-imidazo[4,5-c]-pyridine | 800 mg | C(CCC)C1=NC2=C(C(NC=C2)=O)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C24H22N4O
reactant | trimethyltin azide | 515 mg | C[Sn](C)(C)N=[N+]=[N-]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 2-butyl-4,5-dihydro-4-oxo-3-[2'-(tetrazol-5-yl)biphenyl-4-ylmethyl]-3H-imidazo[4,5-c]pyridine | C(CCC)C1=NC2=C(C(NC=C2)=O)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C24H23N7O
